US08541429B2
Step 1. N-[(1S)-2-amino-1-phenylethyl]-1-methyl-8-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide [B10-X00-M00(C01)-D71]
To a solution of 129 mg (0.228 mmol) of N-[(1S)-2-azido-1-phenylethyl]-1-methyl-8-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide in 16 mL of methanol, 65 mg (1.2 mmol) of NH4Cl dissolved in 3.2 mL of water and 39 mg of iron (0.7 mmol) were added and the mixture refluxed overnight. The suspension was cooled to room temperature and filtered. After removal of methanol, solid Na2CO3 was added portionwise to the aqueous phase up to pH 10 and the product was then extracted with dichloromethane. Flash chromatography of the crude (eluant dichloromethane/methanol 95/5) yielded 94 mg of the title compound.

reactant | N-[(1S)-2-azido-1-phenylethyl]-1-methyl-8-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 0.228 mmol, 129 mg | N(=[N+]=[N-])C[C@H](C1=CC=CC=C1)NC(=O)C1=NN(C2=C1CCC=1C=NC(=NC21)NC2=CC=C(C=C2)N2CCN(CC2)C)C | C30H33N11O
reactant | NH4Cl | 1.2 mmol, 65 mg | [NH4+].[Cl-]
solvent | methanol | 16 mL | CO | CH4O
solvent | water | 3.2 mL | O | H2O
catalyst | iron | 0.7 mmol, 39 mg | [Fe] | Fe
product | N-[(1S)-2-amino-1-phenylethyl]-1-methyl-8-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 94 mg | NC[C@H](C1=CC=CC=C1)NC(=O)C1=NN(C2=C1CCC=1C=NC(=NC21)NC2=CC=C(C=C2)N2CCN(CC2)C)C | C30H35N9O
